US06288082B1
4-(1H-Indazol 6-ylamino)-6-methoxy-quinoline-3-carbonitrile
To a suspension of 218.6 mg (1.0 mmol) of 4-chloro-6-methoxy-3-quinolinecarbonitrile and 159.8 mg (1.2 mmol) of 6-aminoindazole in 10 mL of 2-ethoxyethanol was added 115.6 mg (1.0 mmol) of pyridine hydrochloride. The resulting reaction mixture was refluxed for 1 hr. After cooling, most of solvent was evaporated off and the residue was diluted with ether. The precipitate was collected by filtration and was taken into water. The aqueous suspension was neutralized to PH 7-8 by addition of sat. sodium carbonate aqueous solution and stirred for 15 min. The separated solid was filtered off and washed with water and ether. After drying in vacuo, 297.5 mg (94.3%) of the product was obtained as a deep yellow solid, m.p.>250° C., mass (electrospray, m/e): M+H 315.8. HRCIMS m/z: cacld 315.112 for C18H13N5O (M+), obsd 315.1124

reactant | 4-chloro-6-methoxy-3-quinolinecarbonitrile | 1.0 mmol, 218.6 mg | ClC1=C(C=NC2=CC=C(C=C12)OC)C#N | C11H7ClN2O
reactant | 6-aminoindazole | 1.2 mmol, 159.8 mg | NC1=CC=C2C=NNC2=C1 | C7H7N3
reactant | pyridine hydrochloride | 1.0 mmol, 115.6 mg | Cl.N1=CC=CC=C1
solvent | 2-ethoxyethanol | 10 mL | C(C)OCCO | C4H10O2
product | 4-(1H-Indazol 6-ylamino)-6-methoxy-quinoline-3-carbonitrile | 297.5 mg, 94.3% | N1N=CC2=CC=C(C=C12)NC1=C(C=NC2=CC=C(C=C12)OC)C#N | C18H13N5O
